US07713993B2
Synthesis of 2-[4-chloro-1-(4-chlorophenyl)butyl]-5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-[1,3,4]oxadiazole
A solution of 5-chloro-2-(4-chlorophenyl)pentanoic acid N′-{(E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazide (4.67 g) in phosphorus oxychloride (15 mL) was stirred at 120° C. for 3.5 hours. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure. Ethyl acetate and saturated sodium bicarbonate water were added to the resulting residue, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane:ethyl acetate) to obtain 1.90 g of the title compound. The property value of the compound is as follows.

reactant | 5-chloro-2-(4-chlorophenyl)pentanoic acid N′-{(E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazide | 4.67 g | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)NNC(C(CCCCl)C1=CC=C(C=C1)Cl)=O | C25H26Cl2N4O3
solvent | phosphorus oxychloride | 15 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-[4-chloro-1-(4-chlorophenyl)butyl]-5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-[1,3,4]oxadiazole | 1.90 g | ClCCCC(C1=CC=C(C=C1)Cl)C=1OC(=NN1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C25H24Cl2N4O2
